US07214802B2
N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-[4-(4-methyl-pyridin-3-yl)-[1,2,3]triazol-1-yl]-benzamide
Example 20 was prepared from 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide and 3-ethynyl-4-methyl-pyridine in the same manner as Example 15. ESI MS m/z 549 [C28H32N6O4S+H]+.

reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
reactant | 3-ethynyl-4-methyl-pyridine | C(#C)C=1C=NC=CC1C | C8H7N
product | N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-3-[4-(4-methyl-pyridin-3-yl)-[1,2,3]triazol-1-yl]-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C=1C=NC=CC1C)=O)OC)NS(=O)(=O)C | C28H32N6O4S
